US07550461B2
4-Nitro-benzo[b]thiophene-2-carboxylic acid (369 mg, 1.65 mmol) and N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methanesulfonamide (500 mg, 1.84 mmol) were dissolved in 25 mL DMF and stirred at room temperature. After about 10 min, EDC (317 mg, 1.65 mmol) and HOBt (224 mg, 1.65 mmol) were added and the brown solution was stirred at room temperature 12 h. After stirring 12 h, the reaction was partitioned between EtOAc (150 mL) and water (50 mL). The layers were separated and the organic portion was washed with water (2×25 mL), brine (25 mL), dried (MgSO4), filtered and the solvent was removed in vacuo to afford a brown solid. Column chromatography on silica gel afforded 4-nitro-benzo[b]thiophene-2-carboxylic acid (5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-amide as a pale yellow solid (200 mg, 25%).

reactant | 4-Nitro-benzo[b]thiophene-2-carboxylic acid | 1.65 mmol, 369 mg | [N+](=O)([O-])C1=CC=CC=2SC(=CC21)C(=O)O | C9H5NO4S
reactant | N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methanesulfonamide | 1.84 mmol, 500 mg | NC=1C(=C(C=C(C1)C(C)(C)C)NS(=O)(=O)C)OC | C12H20N2O3S
reactant | EDC | 1.65 mmol, 317 mg
reactant | HOBt | 1.65 mmol, 224 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 4-nitro-benzo[b]thiophene-2-carboxylic acid (5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-amide | 200 mg, 25% | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C1=CC2=C(S1)C=CC=C2[N+](=O)[O-])OC)NS(=O)(=O)C | C21H23N3O6S2
